* OPA637
*****************************************************************************
* (C) Copyright 2011 Texas Instruments Incorporated. All rights reserved.                                            
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer.
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*****************************************************************************
*
** Released by: Analog eLab Design Center, Texas Instruments Inc.
* Part: OPA637
* Date: 01JUL2011
* Model Type: ALL IN ONE
* Simulator: PSPICE
* Simulator Version: 
16.0.0.p001
* EVM Order Number: N/A
* EVM Users Guide: N/A
* Datasheet: SBOS165
*
* Model Version: 1.0
*
*****************************************************************************
* 
* Updates:
*
* Version 1.0 : 
* Release to Web
*
*****************************************************************************
* CONNECTIONS:   NON-INVERTING INPUT

*                | INVERTING INPUT

*                | | POSITIVE POWER SUPPLY

*                | | | NEGATIVE POWER SUPPLY

*                | | | | OUTPUT

*                | | | | |

.SUBCKT OPA637  1 2 3 4 5
C1   11 12 8.221E-12

C2    6  7 3.600E-12

DC    5 53 DX

DE   54  5 DX

DLP  90 91 DX

DLN  92 90 DX

DP    4  3 DX

EGND 99  0 POLY(2) (3,0) (4,0) 0 .5 .5

FB    7 99 POLY(5) VB VC VE VLP VLN 0 552.6E6 -60E6 60E6 60E6 -60E6

GA    6  0 11 12 1.810E-3

GCM   0  6 10 99 2.868E-9

ISS   3 10 DC 486.0E-6

HLIM 90  0 VLIM 1K

J1   11  2 10 JX

J2   12  64 10 JX

G11 2 4 POLY(4) (10,2) (11,2) (4,2) (66,0) 0 1E-12 1E-12 1E-12 1.6E-6

G21 1 4 POLY(4) (10,1) (12,1) (4,1) (68,0) 0 1E-12 1E-12 1E-12 1.6E-6

R2    6  9 100.0E3

RD1   4 11 552.6

RD2   4 12 552.6

RO1   8  5 54

RO2   7 99 1

*  RP    3  4 4.286E3

RSS  10 99 411.5E3

VB    9  0 DC 0

VC    3 53 DC 2.700

VE   54  4 DC 2.700

VLIM  7  8 DC 0

VLP  91  0 DC 55

VLN   0 92 DC 55

* OUTPUT SUPPLY MIRROR

FQ3   0 20 POLY(1) VLIM 0  1

DQ1  20 21 DX

DQ2  22 20 DX

VQ1  21  0 0

VQ2  22  0 0

FQ1   3  0 POLY(1) VQ1  5.38E-3  1

FQ2   0  4 POLY(1) VQ2  5.38E-3 -1

* QUIESCIENT CURRENT

RQ    3  4  7.5E4

* DIFF INPUT CAPACITANCE

CDIF  1  2  8.0E-12

* COMMON MODE INPUT CAPACITANCE

C1CM  1  99 7.0E-12

C2CM  2  99 7.0E-12

* INPUT VOLTAGE NOISE

VN1 61 0  0.6

VN2 0  62 0.6

DN1 61 63 DY

DN2 63 62 DY

EN 64 1  63 0 1

* INPUT CURRENT NOISE

RN1 0 65 60.3865

RN2 65 66 60.3865

RN3 66 0 120.773

RN4 0 67 60.3865

RN5 67 68 60.3865

RN6 68 0 120.773

******************

.MODEL DY D(IS=1E-15 AF=1 KF=73.4E-18)

.MODEL DX D(IS=800.0E-18)

.MODEL JX PJF(IS=500.0E-15 BETA=3.37E-3 VTO=-1)

.ENDS
*
